US09193692B2
B. 3-Bromo-2-methyl-6-(1H-1,2,4-triazol-3-yl)pyridine
5-Bromo-6-methylpicolinamide (1 g, 4.65 mmol) and N,N-dimethylformamide dimethylacetal (20 mL) were combined in a 100 mL round-bottom flask with a stir bar and heated at 85° C. under a reflux condenser under nitrogen for 3 h. The resulting mixture was concentrated under reduced pressure and dried under vacuum to give yellow oil, which was used in the next step without purification. The residue was diluted with acetic acid (10 mL) and hydrazine (2.5 mL, 70.3 mmol) was added drop-wise and allowed to stir at room temperature for 5 h. The reaction mixture was poured into ice water. The resulting solid was filtered, washed with water and dried to give the desired product as a white solid. The aqueous filtrate was extracted with dichloromethane. The organic layer was concentrated under reduced pressure nearly to dryness to yield additional material. Combination of two batches gave the desired product (0.7 g, 2.9 mmol, 63% yield). MS (ESI) m/z 241.1 [M+2]+.

reactant | 5-Bromo-6-methylpicolinamide | 4.65 mmol, 1 g | BrC=1C=CC(=NC1C)C(=O)N | C7H7BrN2O
reactant | N,N-dimethylformamide dimethylacetal | 20 mL | COC(N(C)C)OC | C5H13NO2
reactant | hydrazine | 70.3 mmol, 2.5 mL | NN | H4N2
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | 3-Bromo-2-methyl-6-(1H-1,2,4-triazol-3-yl)pyridine | BrC=1C(=NC(=CC1)C1=NNC=N1)C | C8H7BrN4
